US05739129
2-(2-Aminopyridyl)nitrobenzene
Sodium hydride (60% in oil, 1.26 g) was added to a 0° C. solution of 2-aminopyridine (2.00 g) in THF (10 ml) and the resultant mixture stirred at 0° C. for 1 h. A solution of 2-fluoronitrobenzene (2.21 ml) in THF (8 ml) was added dropwise and the resultant mixture allowed to attain rt overnight. Saturated aqueous sodium carbonate (10 ml) was added and the separated aqueous phase extracted into dichloromethane (3×10 ml). The combined organic extracts were washed with brine (20 ml), dried (MgSO4) and concentrated in vacuo. Flash column chromatography (cyclohexane: ethyl acetate; 3:1 as eluant) gave the title compound (2.23 g) as an orange/red solid.

reactant | Sodium hydride | 1.26 g | [H-].[Na+]
reactant | 2-aminopyridine | 2.00 g | NC1=NC=CC=C1 | C5H6N2
reactant | 2-fluoronitrobenzene | 2.21 ml | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | sodium carbonate | 10 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 2-(2-Aminopyridyl)nitrobenzene | 2.23 g | NC1=NC=CC=C1C1=C(C=CC=C1)[N+](=O)[O-] | C11H9N3O2
